US07666864B2
Step 1: (6S)-6-[(5-Bromopyridin-3-yl)methoxy]-2-nitro-6,7-dihydro-5H-imi-dazo[2,1-b][1,3]oxazine.
A solution of (S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxa-zin-6-ol (3.63 g, 19.6 mmol) and 3-bromo-5-(chloromethyl)pyridine hydrochloride (4.78 g, 19.6 mmol, 1 eq) in dry DMF (80 mL) was treated with NaH (1.88 g, 47 mmol, 2.4 eq, 60% in mineral oil) at 0-5° C., then stirred at room temperature overnight (16 h), quenched with water (150 mL), and extracted into EtOAc. Chromatography of the crude product on silica gel, eluting with MeOH/CH2Cl2 (1:19), gave the title product (2.10 g, 30%) as white solid. APCI MS m/z 355.7, 357.7 (M+H). 1H NMR (400 MHz, (CD3)2SO) δ 8.64 (d, J=2.3 Hz, 1H), 8.52 (d, J=1.7 Hz, 1H), 8.03 (s, 1H), 7.97 (br t, J=2.1 Hz, 1H), 4.73 (d, J=12.6 Hz, 1H), 4.70-4.65 (m, 2H), 4.48 (d, J=12 Hz, 1H), 4.31-4.20 (m, 3H).

reactant | (S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxa-zin-6-ol | 19.6 mmol, 3.63 g | [N+](=O)([O-])C=1N=C2OC[C@H](CN2C1)O | C6H7N3O4
reactant | 3-bromo-5-(chloromethyl)pyridine hydrochloride | 19.6 mmol, 4.78 g, 1 eq | Cl.BrC=1C=NC=C(C1)CCl
reactant | NaH | 47 mmol, 1.88 g, 2.4 eq | [H-].[Na+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (6S)-6-[(5-Bromopyridin-3-yl)methoxy]-2-nitro-6,7-dihydro-5H-imi-dazo[2,1-b][1,3]oxazine | 2.10 g, 30% | BrC=1C=C(C=NC1)CO[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C12H11BrN4O4
